US04615726
8 g (0.028 mole) of 2-(2-ethoxycarbonylphenyl)-5-isopropyl-5-methyl-4-oxo-2-imidazoline are dissolved in 30 ml of absolute pyridine, and 5.3 g (0.056 mole) of methyl chloroformate are added at room temperature. After 1 hour, the mixture is poured onto ice and extracted twice with 100 ml of toluene each time and the organic phase is washed twice with water, dried and evaporated. 8.7 g (90% of theory) of 2-(2-ethoxycarbonylphenyl)-5-isopropyl-1-methoxycarbonyl-5-methyl-4-oxo-2-imidazoline are obtained as a colorless oil.

reactant | 2-(2-ethoxycarbonylphenyl)-5-isopropyl-5-methyl-4-oxo-2-imidazoline | 0.028 mole, 8 g | C(C)OC(=O)C1=C(C=CC=C1)C=1NC(C(N1)=O)(C)C(C)C | C16H20N2O3
reactant | methyl chloroformate | 0.056 mole, 5.3 g | ClC(=O)OC | C2H3ClO2
solvent | pyridine | 30 ml | N1=CC=CC=C1 | C5H5N
product | 2-(2-ethoxycarbonylphenyl)-5-isopropyl-1-methoxycarbonyl-5-methyl-4-oxo-2-imidazoline | 8.7 g, 90% | C(C)OC(=O)C1=C(C=CC=C1)C=1N(C(C(N1)=O)(C)C(C)C)C(=O)OC | C18H22N2O5
